US06410584B1
To an N,N-dimethylformamide (10 ml) solution of 6-carboxy-1-(2-chlorobenzyl)-2-methylindole (0.470 g), added is N,N′-carbonyldiimidazole (0.508 g), and stirred at room temperature for 1 hour. Next, benzenesulfonamide (0.493 g) and diazabicycloundecene (0.477 g) are added thereto, and stirred at 100° C. for 72 hours. The solvent is evaporated away under reduced pressure, and the residue is purified through silica gel column chromatography (eluent: chloroform) to obtain 6-(benzenesulfonylcarbamoyl)-1-(2-chlorobenzyl)-2-methylindole. This is dissolved in a small amount of ethyl acetate, to which is added hexane. The crystal formed is taken out through filtration, and dried to obtain 6-(benzenesulfonylcarbamoyl)-1-(2-chlorobenzyl)-2-methylindole (32) (0.440 g).

reactant | 6-carboxy-1-(2-chlorobenzyl)-2-methylindole | 0.470 g | C(=O)(O)C1=CC=C2C=C(N(C2=C1)CC1=C(C=CC=C1)Cl)C | C17H14ClNO2
reactant | benzenesulfonamide | 0.493 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | diazabicycloundecene | 0.477 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-(benzenesulfonylcarbamoyl)-1-(2-chlorobenzyl)-2-methylindole | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC=C2C=C(N(C2=C1)CC1=C(C=CC=C1)Cl)C | C23H19ClN2O3S
